US07157464B2
Synthesis of 5-Butyl-3-trifluoromethyl-1H-pyrazole
To a solution of 1-Hexyne (3.37 mL, 29.4 mmol) in THF (30 mL) was added n-BuLi (2.78 M, 10.2 mL, 29.4 mmol). The solution was stirred at −78° C. for 30 minutes then CF3CO2Et (3.5 mL, 29.35 mL) and BF3-OEt2 were added successively. The reaction was further stirred at −78° C. for 2 h and was quenched with satd. NH4Cl. It was then warmed up to the room temperature. The THF was removed, the residue taken into ether, washed with saturated brine solution, dried over Na2SO4 and reduced. The crude product was then dissolved in benzene (25 mL) and hydrazine (29.4 mmol) was added. The reaction mixture was refluxed overnight, then cooled, the solvent evaporated, and the residue taken into CH2Cl2 (30 mL), washed with brine, dried over Na2SO4 and concentrated to give the title compound as colorless oil.

reactant | 1-Hexyne | 29.4 mmol, 3.37 mL | C#CCCCC | C6H10
reactant | n-BuLi | 29.4 mmol, 2.78 M, 10.2 mL | [Li]CCCC
reactant | CF3CO2Et | 3.5 mL | C(F)(F)(F)C(=O)OCC | C4H5F3O2
reactant | BF3 OEt2 | B(F)(F)F.O(CC)CC
reactant | hydrazine | 29.4 mmol | NN | H4N2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 5-Butyl-3-trifluoromethyl-1H-pyrazole | C(CCC)C1=CC(=NN1)C(F)(F)F | C8H11F3N2
